US06599902B2
Synthesis of 3-[1-[4-(4-Cyclopropylmethyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one was condensed with 4-(4-cyclopropylmethyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde in ethanol and piperidine to give the titled compound. MS m/z 613 [M−1].

reactant | 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 4-(4-cyclopropylmethyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | C1(CC1)CN1CCN(CC1)CC=1C(=C(NC1C)C=O)C | C16H25N3O
solvent | ethanol | C(C)O | C2H6O
solvent | piperidine | N1CCCCC1 | C5H11N
product | 3-[1-[4-(4-Cyclopropylmethyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | C1(CC1)CN1CCN(CC1)CC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C31H34Cl2N4O3S
